US08227468B2
4-Fluoro-N-[(1S,2S)-2-hydroxy-7-piperazin-1-yl-tetralin-1-yl]benzamide hydrochloride
To a solution of tert-butyl 4-[(3S,4S)-4-[(4-fluorobenzoyl)amino]-3-hydroxy-tetralin-6-yl]piperazine-1-carboxylate (19.4 g, 41.3 mmol) in 1,4-dioxane (430 mL) add 4 M hydrogen chloride in dioxane (135 mL) at room temperature. Stir the resulting slurry mechanically at 50° C. for 13 hr. Concentrate the reaction in vacuo to obtain the title compound (24.8 g, quantitative). LC-ES/MS m/z 370 [M+H]+.

reactant | tert-butyl 4-[(3S,4S)-4-[(4-fluorobenzoyl)amino]-3-hydroxy-tetralin-6-yl]piperazine-1-carboxylate | 41.3 mmol, 19.4 g | FC1=CC=C(C(=O)N[C@@H]2[C@H](CCC3=CC=C(C=C23)N2CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C26H32FN3O4
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 430 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 135 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-N-[(1S,2S)-2-hydroxy-7-piperazin-1-yl-tetralin-1-yl]benzamide hydrochloride | 24.8 g | Cl.FC1=CC=C(C(=O)N[C@@H]2[C@H](CCC3=CC=C(C=C23)N2CCNCC2)O)C=C1 | InChI=1S/C21H24FN3O2.ClH/c22-16-5-1-15(2-6-16)21(27)24-20-18-13-17(25-11-9-23-10-12-25)7-3-14(18)4-8-19(20)26;/h1-3,5-7,13,19-20,23,26H,4,8-12H2,(H,24,27);1H/t19-,20-;/m0./s1
